US07737295B2
In a 2-liter flask equipped with a septum inlet, magnetic stirring bar, and condenser leading to a mercury bubbler was placed 100 g (0.348 mol) of 4-amino-3-iodobenzotrifluoride in 1 liter DMF. To this reaction flask with stirring was added 37.4 g (0.416 mol) of copper cyanide and the contents were heated to 100° C. under nitrogen for fourteen hours. Afterwards, TLC analysis revealed minor starting material (20/80) ethyl acetate/hexane. The contents were cooled to 40° C. and filtered through a pad of Celite. The solids were washed with ether and the filtrate transferred to a separatory funnel and washed with about 5% aqueous ammonium hydroxide. The aqueous layer was back-extracted with ether and the organics were combined and washed with brine, dried over magnesium sulfate, filtered and concentrated to yield a black oil. The oil was chromatographed on a Biotage 75L cartridge with ethyl acetate/hexane to obtain 68 g 2-amino-5-(trifluoromethyl)benzonitrile as a black solid.

reactant | 4-amino-3-iodobenzotrifluoride | 0.348 mol, 100 g | NC1=C(C=C(C=C1)C(F)(F)F)I | C7H5F3IN
reactant | copper cyanide | 0.416 mol, 37.4 g | [Cu](C#N)C#N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMF | 1 liter | CN(C)C=O | C3H7NO
catalyst | mercury | [Hg] | Hg
product | 2-amino-5-(trifluoromethyl)benzonitrile | 68 g | NC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H5F3N2
